US05686622
Methyl (2RS,3S)-3-tert-butoxycarbonylamino-2-acetylthio-3-(2-fluorophenyl) propionate may be prepared in a similar manner to that described in Example 1G, but starting with 30 g of methyl (2R,3S)-3-tert-butoxycarbonylamino-2-tosyloxy-3-(2-fluorophenyl)propionate and 17.2 g of potassium thioacetate. 9.8 g of methyl (2RS,3S)-3-tert-butoxycarbonylamino-2-acetylthio-3-phenylpropionate are thus obtained in the form of a red oil which is used without further purification in the subsequent syntheses.

reactant | methyl (2R,3S)-3-tert-butoxycarbonylamino-2-tosyloxy-3-(2-fluorophenyl)propionate | 30 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(=O)OC)OS(=O)(=O)C1=CC=C(C)C=C1)C1=C(C=CC=C1)F | C22H26FNO7S
reactant | potassium thioacetate | 17.2 g | C(C)(=S)[O-].[K+]
product | methyl (2RS,3S)-3-tert-butoxycarbonylamino-2-acetylthio-3-phenylpropionate | 9.8 g | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)OC)SC(C)=O)C1=CC=CC=C1 | C17H23NO5S
